US08138187B2
3-(2-(1H-Imidazol-1-yl)ethyl)-1H-indole (Ind-71)
A solution of 3-(2-bromo-ethyl)-1H-indole (1.12 g, 5 mmol) and imidazole (0.68 g, 10 mmol) in abs. dioxane (10 ml) was stirred at 80° C. for 4 h until according to TLC educt was no longer present. The solvent was then removed i. vac., CHCl3 (100 ml) was added to the residue and the mixture was washed twice with water. The organic phase was dried over Na2SO4 and concentrated i. vac. and the residue which remained was purified by flash chromatography with CHCl3/MeOH (20:1). Yield: 507 mg (Ind-71, 48%), colourless solid

reactant | 3-(2-bromo-ethyl)-1H-indole | 5 mmol, 1.12 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | imidazole | 10 mmol, 0.68 g | N1C=NC=C1 | C3H4N2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(2-(1H-Imidazol-1-yl)ethyl)-1H-indole | N1(C=NC=C1)CCC1=CNC2=CC=CC=C12 | C13H13N3
